US07153968B2
Step 1: 2-Bromo-6-methylsulfanyl-pyridine
To a solution of 2,6-dibromopyridine. (1.0 eq.) in DMSO (0.3M) was added sodium methylsulfide (1.1 eq.). The mixture was stirred for 2 d at rt then poured in water. The resulting precipitate was filtered off and the filtrate was extracted with Et2O (2×). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated to afford the title compound as a colorless oil.

reactant | 2,6-dibromopyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | sodium methylsulfide | 1.1 eq. | CSC.[Na]
solvent | DMSO | 0.3M | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-Bromo-6-methylsulfanyl-pyridine | BrC1=NC(=CC=C1)SC | C6H6BrNS
